Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([N:2]([C:3](=[O:4])[C:5](=[O:6])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1](=[N:2][H:10])([H:8])[H:9].[C:3](=[O:4])=[C:5]([O:6][H:7])[H:11],74.8089781881922
[C:1]([N:2]([C@:3]1([H:14])[N-:4][N:5]([H:12])[C:6]([H:13])=[C+:7]1)[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([c:3]1[n:4][n:5]([H:12])[c:6]([H:13])[c:7]1[H:14])[H:11])([H:8])([H:9])[H:10],1.9710375009962178
[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([H:11])[H:12])([H:8])[H:10].[C:6]([O:7][H:15])([H:9])([H:13])[H:14].[O:3]=[C:4]=[O:5],72.5417275424509
[C:1]([C@@:2]1([H:10])[C@:3]([C:4]([H:12])([H:13])[H:14])([H:11])[C@:5]1([O:6][H:16])[H:15])([H:7])([H:8])[H:9]>>[C:1](=[C:2]([C@@:3]([C:4]([H:12])([H:13])[H:14])([C:5]([O:6][H:7])([H:15])[H:16])[H:11])[H:10])([H:8])[H:9],64.500799912348
[C:1]([C@@:2]1([H:12])[C:3]([H:11])=[C:4]([O:5][H:13])[C:6]([H:14])([H:15])[O:7]1)([H:8])([H:9])[H:10]>>[C:1]([C@@:2]12[C:3]([H:11])([H:12])[C@:4]1([O:5][H:13])[C:6]([H:14])([H:15])[O:7]2)([H:8])([H:9])[H:10],91.5593307004729
[C-:5]#[O+:6].[C:1]([C:2](=[C:3]=[N:4][C:7]([H:12])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]#[N:4])([C:5](=[O:6])[C:7]([H:12])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],49.900827183133806
[N:1](=[C:2](/[O:3][H:4])[H:6])\[H:5]>>[N:1]([C:2](=[O:3])[H:6])([H:4])[H:5],27.102118020123797
[C:1]([C:5]1=[N:6][C:4]1=[C:3]=[C:2]([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]#[C:4][C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9],88.4943835414573
[N:1]([C:2](=[O:3])[C:4]#[C:5][C:6]#[N:7])([H:8])[H:9]>>[C:4](#[C:5][C:6]#[N:7])[H:9].[N:1](=[C:2]=[O:3])[H:8],58.348482250639286
[O:1]=[C:2]=[C:3]([C:4]([N:5]1[C:6]([H:8])([H:12])[O:7]1)([H:10])[H:11])[H:9]>>[O:1]=[C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[C:6](=[O:7])[H:12])[H:8],25.061970936270903
[N:1](=[C+:2][C:7](=[C-:6][O:5][H:9])[H:10])[H:8].[N:3]#[N:4]>>[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4],26.10919529022999
[C:1](/[C:2](=[N:3]\[H:10])[N:4]([C:5](=[O:6])[H:12])[H:11])([H:7])([H:8])[H:9]>>[C:1](/[C:2](=[N:3]\[H:10])[H:12])([H:7])([H:8])[H:9].[N:4](=[C:5]=[O:6])[H:11],71.4388509296094
[C:1]([N:2]([C:3](=[O:4])[N:5]([C:6]([H:12])([H:13])[H:14])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([N:5]([C:6]([H:12])([H:13])[H:14])[H:11])([H:7])([H:8])[H:9].[N:2](=[C:3]=[O:4])[H:10],77.23131462804301
[C:1]([N:2]([H:8])[H:9])([C:3](=[O:4])[N:5]([H:10])[H:11])([H:6])[H:7]>>[C:1]([N:2]([C:3](=[O:4])[N:5]([H:10])[H:11])[H:9])([H:6])([H:7])[H:8],112.59443352414652
[C:1]([C:2](=[O:3])[C:4](=[O:5])[C:6](=[O:7])[H:11])([H:8])([H:9])[H:10]>>[C-:4]#[O+:5].[C-:6]#[O+:7].[C:1]([C:2](=[O:3])[H:11])([H:8])([H:9])[H:10],43.643822291165705
[O:1]([C:2]([C@@:3]1([H:11])[C@@:4]2([H:12])[C:5]([H:13])([H:14])[C@:6]1([H:15])[O:7]2)([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:3]1=[C:6]([H:15])[C:5]([H:13])([H:14])[C@:4]1([O:7][H:11])[H:12])([H:9])[H:10])[H:8],60.5018476189948
[C:1]([C@@:2]([O:5][C:4](=[C:3]([H:12])[H:13])[H:14])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]([C:4](=[O:5])[H:14])([H:12])[H:13])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10],49.40558575227591
[O:1]([C:2]([C:3]([C@@:4]([O:5][H:14])([C:6]#[C:7][H:15])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8]>>[C:3]1([H:11])([H:12])[C@:4]([O:5][H:14])([H:13])[C:6]1=[C:7]([H:8])[H:15].[O:1]=[C:2]([H:9])[H:10],55.88133982173229
[N:1]([C:2]([C:3]#[N:4])([C:5]#[N:6])[H:9])([H:7])[H:8]>>[N:1]([C+:2]([C:3](=[N-:4])[H:9])[C:5]#[N:6])([H:7])[H:8],51.9021154430283
[C:1]([O:6][H:18])([H:7])([H:8])[H:9].[C:2]1([H:10])([H:11])[C:3]([C:4]([H:13])([H:14])[H:15])([H:12])[C:5]1([H:16])[H:17]>>[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([C:5]([O:6][H:18])([H:16])[H:17])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],90.3413065757143
[C:1]1([H:8])([H:9])[C@:2]2([H:10])[C:3]([H:11])([H:12])[C:4](=[O:5])[C@:6]12[H:14].[H:7][H:13]>>[C:1]([C:2]1([H:10])[C:3]([H:11])([H:12])[C:4](=[O:5])[C:6]1([H:13])[H:14])([H:7])([H:8])[H:9],64.96915520625961
[N:1]([c:2]1[c:3]([H:10])[n:4]([H:11])[c:5]([O:6][H:12])[n:7]1)([H:8])[H:9]>>[N-:1]([C+:2]1[C-:3]([H:10])[N+:4]([H:9])([H:11])[C+:5]([O:6][H:12])[N-:7]1)[H:8],107.175557036337
[O:1]([C:2]([C:3]#[C:4][C:5]#[C:6][H:10])([H:8])[H:9])[H:7]>>[O:1]([C:4](=[C:3]=[C:2]([H:8])[H:9])[C:5]#[C:6][H:10])[H:7],62.558624364196994
[C:1]([C:2](=[O:3])[C:6]#[N:7])([H:8])([H:9])[H:10].[C:4]([N:5]([H:11])[H:15])([H:12])([H:13])[H:14]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([N:5]([H:14])[H:15])([H:12])[H:13])[C:6]#[N:7])([H:8])([H:9])[H:10],70.27871257018262
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[O:4][C@:5]([C:6]([H:15])([H:16])[H:17])([H:14])[O:7]1)([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])[H:10].[C@:2]1([O:7][C:5]([C:6]([H:15])([H:16])[H:17])[H:14])([H:11])[C:3]([H:12])([H:13])[O:4]1,119.39386111007799
[C:1]1([H:7])=[C:2]=[C:3]([H:10])[C@@:4]2([H:11])[O:5][C@@:6]12[H:12].[H:8][H:9]>>[C:1]1([H:7])([H:8])[C:2]([H:9])=[C:3]([H:10])[C@@:4]2([H:11])[O:5][C@@:6]12[H:12],14.922221386115496
